US04045480
86 g (1 mol) of methacrylic acid were added dropwise to 117 g (1 mol) of methyldichlorophosphine at a temperature from 40° to 45° C. The mixture was stirred for 1 hour at said temperature. Phosphinic-carboxylic acid dichloride was then decomposed with 18 ml of H2O at a temperature of from 40° to 60° C., whereby a considerable formation of hydrogen chloride occurred. The residual quantity of hydrogen chloride in the reaction mixture was removed in a water-jet vacuum at 150° C. The residue was distilled under reduced pressure. 126 g of 2,4-dimethyl-2,5-dioxo-1,2-oxa-phospholane were obtained, which corresponds to a yield of 85.1% of the theory.

reactant | methacrylic acid | 1 mol, 86 g | C(C(=C)C)(=O)O | C4H6O2
reactant | methyldichlorophosphine | 1 mol, 117 g | CP(Cl)Cl | CH3Cl2P
reactant | hydrogen chloride | Cl | ClH
reactant | H2O | 18 ml | O | H2O
product | 2,4-dimethyl-2,5-dioxo-1,2-oxa-phospholane | 126 g, yield of 85.1% | CP1(OC(C(C1)C)=O)=O | C5H9O3P
